US09169254B2
A 6 N aqueous sodium hydroxide solution was added to a solution of 4-carbamoyl-4-[(E)-3-(3-trifluoromethyl-phenyl)-acryloylamino]-piperidine-1-carboxylic acid tert-butyl ester (961 mg, 2.27 mmol) in ethanol (20 ml), and the mixture was stirred at room temperature for 22 hours. The reaction solution was quenched with saturated ammonium chloride and then extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 4-oxo-2-[(E)-2-(3-trifluoromethyl-phenyl)-vinyl]-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (706 mg, 73%).

reactant | sodium hydroxide | 6 N | [OH-].[Na+]
reactant | 4-carbamoyl-4-[(E)-3-(3-trifluoromethyl-phenyl)-acryloylamino]-piperidine-1-carboxylic acid tert-butyl ester | 2.27 mmol, 961 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(\C=C\C1=CC(=CC=C1)C(F)(F)F)=O)C(N)=O | C21H26F3N3O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-oxo-2-[(E)-2-(3-trifluoromethyl-phenyl)-vinyl]-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 706 mg, 73% | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)\C=C\C2=CC(=CC=C2)C(F)(F)F)=O)CC1 | C21H24F3N3O3
